US07423147B2
Step C. 5-(3-Chloro-propoxy)-2-piperidin-1ylmethyl-pyridine.
A solution of 6-piperidin-1-ylmethyl-pyridin-3-ol (0.225 g, 1.17 mmol), 1-bromo-3-chloro propane (0.23 mL, 2.34 mmol), and K2CO3 (0.483 g, 3.50 mmol) in acetone (10 mL) was heated to reflux temperature. After 10 h the reaction mixture was cooled to rt, diluted with acetone (50 mL) and filtered through a pad of diatomaceous earth. The filtrate was concentrated, giving the crude title compound as an oil (0.250 g, 80%).

reactant | 6-piperidin-1-ylmethyl-pyridin-3-ol | 1.17 mmol, 0.225 g | N1(CCCCC1)CC1=CC=C(C=N1)O | C11H16N2O
reactant | 1-bromo-3-chloro propane | 2.34 mmol, 0.23 mL | BrCCCCl | C3H6BrCl
reactant | K2CO3 | 3.50 mmol, 0.483 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 5-(3-Chloro-propoxy)-2-piperidin-1ylmethyl-pyridine | 0.250 g, 80% | ClCCCOC=1C=CC(=NC1)CN1CCCCC1 | C14H21ClN2O
